US20010053843A1
4-Diphenylamino-1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene (6.09 g) was prepared by adding butyllithium (0.64 g dissolved in 4 mL hexane) was added into a solution of 4-bromotriphenylamine (3.24 g) in 50 mL tetrahydrofuran at −78° C. The mixture was stirred while the solution temperature warmed up to 10° C. It was cooled again to −78° C. when borolane (2.23 g) was added. The mixture was then stirred at room temperature for 20 hrs and poured into water. The product was extracted with ether, washed with brine, and dried with MgSO4. Solvent was evaporated. The residue was chromatographed on a silica gel column using a hexane/ethyl acetate mixture as eluent (40:1). 2.03 g of the product, 4-diphenylamino-1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene, was obtained. Then, 4-diphenylamino-1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene (6.09 g), 2-bromo-1,4-bis(acetyloxymethyl)benzene (4.9 g), tetrakis(triphenylphosphine)-palladium(0) (0.15 g), toluene (15 mL), and an aqueous solution of sodium carbonate (2M, 25 mL) were mixed under argon. The resulting mixture was stirred at reflux for 2 days, cooled, and poured into water. The aqueous mixture was then extracted with ether. The etheral solution was washed with dilute HCl, brine, dried with magnesium sulfate, and evaporated. The residue was recrystallized in methanol to yield 5.70 g of 2-(4-diphenylaminophenyl)-1,4-bis(acetyloxymethyl)benzene.

reactant | 4-diphenylamino-1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene | 6.09 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C24H26BNO2
reactant | 2-bromo-1,4-bis(acetyloxymethyl)benzene | 4.9 g | BrC1=C(C=CC(=C1)COC(C)=O)COC(C)=O | C12H13BrO4
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 25 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.15 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | 2-(4-diphenylaminophenyl)-1,4-bis(acetyloxymethyl)benzene | 5.70 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=C(C=CC(=C1)COC(C)=O)COC(C)=O)C1=CC=CC=C1 | C30H27NO4
